Name:  ___.                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Neurontin / Lyrica
 
Attending: ___.
 
Chief Complaint:
dyspnea and chest heaviness on exertion 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a cognitively intact ___ y/o F who is independent 
of all of her ADLs and IADLs (including driving) who presents 
from home with SOB. Recently visited her son in ___ 
about a week ago on ___. Since returning from
___, she has been feeling very tired and beginning on 
___, has had episodes of shortness of breath lasting up to a 
few minutes when doing simple activities that she could normally 
tolerate, such as walking across a parking lot or climbing the 
stairs. Palpitations also started after the SOB occurred.  Has 
never had trouble breathing in the past. She has had a dry cough 
for a few days. She has had no chest pain, pleurisy, hemoptysis, 
fever, sweats, or chills. She endorses 5 pound weight loss over 
the ten days she was in
___. 

No history of asthma, never on inhalers. No sputum production or 
fever/chills while at home. No history of CAD or heart failure. 
Had lymphoma in the past, recalls getting a TTE in ___ before 
chemotherapy that she believes was normal. Did not receive 
radiation to her chest for lymphoma treatment, only 
chemotherapy, R-CHOP. Episodes continued to worsen but she was 
still able to do everything she wanted to.

Around 8:30 am on ___ she became severely short of breath with
palpitations while trying to climb the stairs at her church. A
friend of hers there who is a nurse told her to seek medical
attention.   

She presented to ___ urgent care. Had a CXR which was 
unremarkable. BMP unremarkable, no leukocyotosis or left shift. 
Vitals stable. proBNP 546. D-dimer elevated at 764. EKG showed a 
LBBB which was new for her. Transferred to ___ for CTA because 
urgent care machine not working. CTA turned out to be negative 
for PE, but did show small ground glass opacity in the right 
middle lobe. Troponin negative x 2.
 
Past Medical History:
PAST MEDICAL HISTORY:  
 HTN  
 Basal Cell Carcinoma  
 Glaucoma  
 Hypothyroidism  
 Macular Degeneration  
 B Cell Lymphoma without recurrence - s/p RCHOP ___ @___  
 Osteoporosis  
PAST SURGICAL HISTORY:  
 Appendectomy  
 Hysterectomy  
 Oophorectomy  
 Hemorrhoidectomy  

 
Social History:
___
Family History:
Her mother died at age ___ of a stroke. Her father died at age ___ 
of emphysema, one brother died of lung cancer, another brother 
died of a myocardial infarction. She has a brother who is living 
who has osteoporosis. 
 
Physical Exam:
ADMISSION EXAM:
 Vital Signs: Temp 98, 167/74, HR 92, RR 20, 98% RA  
 General: Alert, NAD, pleasant elderly female  
 HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated, no LAD  
 CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
 Lungs: Clear to auscultation bilaterally, normal WOB  
 Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
 Ext: Warm, well perfused, no edema  
 Neuro: Answers questions appropriately, moving all extremities  


DISCHARGE EXAM:
VS: 98.2 PO 125/80 65 18 99 RA 
GENERAL: NAD, alert, reading in chair 
HEENT: sclerae anicteric, MMM, PERRL, b/l anterior cervical 
lymphadenopathy 
LUNGS: Clear to auscultation bilaterally, otherwise no w/r/r
CV: RRR, normal S1+S2, no m/g/r
ABDOMEN: normoactive bowel sounds, no organomegaly, no rebound 
tenderness/guarding 
EXTREMITIES: no clubbing, cyanosis or edema
NEURO: A&Ox3
 
Pertinent Results:
LABS ON ADMISSION:
___ 11:35AM BLOOD WBC-7.9 RBC-3.46* Hgb-11.3 Hct-34.2 
MCV-99* MCH-32.7* MCHC-33.0 RDW-12.6 RDWSD-45.2 Plt ___
___ 11:35AM BLOOD Neuts-55.3 ___ Monos-11.2 Eos-2.4 
Baso-1.0 Im ___ AbsNeut-4.37 AbsLymp-2.35 AbsMono-0.88* 
AbsEos-0.19 AbsBaso-0.08
___ 11:50AM BLOOD ___ PTT-26.8 ___
___ 11:35AM BLOOD Glucose-188* UreaN-31* Creat-0.8 Na-139 
K-3.1* Cl-102 HCO3-25 AnGap-15
___ 11:35AM BLOOD proBNP-546
___ 11:50AM BLOOD cTropnT-<0.01
___ 11:35AM BLOOD D-Dimer-764*

IMAGING:

___ CXR (AP & LAT): No acute cardiopulmonary abnormality.

___ CTA CHEST:
1. No evidence of pulmonary embolism or aortic abnormality. 
2. Subtle ground-glass opacity in the right middle lobe, could 
be due to focal inflammation or infection. 
3. There is an enlarged right lower paratracheal lymph node, 
measuring 2.1 x 1.2 cm, nonspecific. 

___ PORTABLE TTE: Normal biventricular cavity sizes with 
preserved regional and global biventricular systolic function. 
Mild-moderate pulmonary artery systolic hypertension. Moderate 
tricuspid regurgitation.

___ PHARM STRESS EKG: No anginal type symptoms or ischemic 
EKG changes. Nuclear report sent separately.

DISCHARGE EXAM:
___ 06:25AM BLOOD WBC-7.2 RBC-3.44* Hgb-11.0* Hct-34.8 
MCV-101* MCH-32.0 MCHC-31.6* RDW-12.5 RDWSD-47.0* Plt ___
___ 06:25AM BLOOD Glucose-89 UreaN-20 Creat-0.7 Na-148* 
K-4.4 Cl-109* HCO3-24 AnGap-19
___ 06:25AM BLOOD Calcium-8.9 Phos-2.7 Mg-2.___ with a h/o HTN, hypothyroid, glaucoma, B-cell lymphoma in 
remission who presents with dyspnea on exertion and transient 
LBBB on EKG, found to have echo without wall motion 
abnormalities and normal perfusion with pharm. stress test.

# Dyspnea on exertion: The patient had been experiencing 
worsening shortness of breath with ambulation and using stairs 
since a cross-country flight from ___ to ___. Patient had 
elevated D-dimer, but no calf tenderness/swelling or evidence of 
PE on CTA. She did have EKG changes from the urgent care she was 
seen at initially which resulted in admission and cardiology 
rule-out and workup. Her dyspnea was provoked with ambulation 
but she had no drop in SAO2 or chest pain; it was ultimately 
thought to be an angina equivalent. While inpatient she had both 
a pharm. stress study and echo, both of which were normal (no 
ischemia, no decreased systolic function or WMA). Though GGO 
were described on the patient's CTA, lower suspicion for 
pneumonia with no fever, leukocytosis, or left shift by labs. 
She did receive a dose of antibiotics in the ED, but these were 
stopped on admission to the floor. She was discharged after 
cardiology recommended no medical intervention or treatment 
while inpatient and will have close PCP and cardiology ___ 
as an outpatient.

# transient LBBB on EKG: EKGs on admission showed transient LBBB 
and patient had troponin negative x2 and normal BNP. She was 
otherwise sinus on telemetry for ___ days. No known cardiac 
history and getting ASA81 for primary prevention. No EKGs from 
before ___ available for comparison. Patient had no chest pain, 
no palpitations, and only mild dyspnea as above while inpatient, 
that improved prior to discharge. Will follow up with cardiology 
as outpatient per inpatient cardiology fellow recs given 
negative ischemia workup.

# adenopathy: CTA showed enlarged right lower paratracheal lymph 
node, measuring 2.1 x 1.2 cm. Possibly ___ pneumonia, but should 
be repeated as outpatient given history of lymphoma.

# HTN: Continued home Lisinopril.

# Hypothyroidism: Continue home levothyroxine.

# Glaucoma: Continued home Danzalomide and Latanoprost drops.

# Primary prevention: Continued daily ASA81.

# Osteoporosis: Continued home Vitamin D.

TRANSITIONAL ISSUES:
- consider repeat CT chest without contrast to assess for 
progression of R lower paratracheal lymph node (measuring 2.1 x 
1.2 cm) as if indicated clinically
- follow up with cardiology as outpatient for dyspnea and angina 
equivalent with normal echo and stress testing, awaiting 
appointment at time of discharge 
- blood culture final results pending at discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Restasis 0.05 % ophthalmic BID 
2. Levothyroxine Sodium 100 mcg PO DAILY 
3. Lisinopril 5 mg PO DAILY 
4. Aspirin 81 mg PO DAILY 
5. Vitamin D ___ UNIT PO DAILY 
6. Dorzolamide 2%/Timolol 0.5% Ophth. 1 DROP BOTH EYES BID 
7. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Dorzolamide 2%/Timolol 0.5% Ophth. 1 DROP BOTH EYES BID  
3.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
4.  Levothyroxine Sodium 100 mcg PO DAILY  
5.  Lisinopril 5 mg PO DAILY  
6.  Restasis 0.05 % ophthalmic BID  
7.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
- dyspnea on exertion

Secondary diagnosis:
- hilar adenopathy
- new transient left bundle branch block on EKG
- hypertension
- hypothyroidism
- glaucoma
- osteoporosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

___ were admitted with shortness of breath and a change that was 
seen on an electrical study of your heart. There was some 
concern for a pneumonia due to a lung imaging study, however 
your lungs were working well and ___ had no other signs or 
symptoms of infection. While inpatient ___ had tests to your 
heart which showed that your heart is functioning well and the 
cardiologists were happy to see ___ as an outpatient. ___ will 
have close ___ with your doctor and ___ new cardiologist 
when ___ leave the hospital.

Best regards,
Your ___ Care Team
 
Followup Instructions:
___